US05013863
A suspension of 2.46 g of 3-aminopropylphosphonous acid in 20 ml of hexamethyldisilazane is heated to reflux under an inert gas for 24 hours after which a clear solution results. The excess hexamethyldisilazane is removed by distillation at atmospheric pressure under a slight positive pressure of inert gas to afford a colourless oil. The oil is cooled to circa 40° and treated with 0.64 g of anhydrous zinc iodide and 25 ml of (S)-(+)-1,2-exoxy-3-methyl-butane. An exothermic reaction occurs and the epoxybutane refluxes. Reflux is continued for 6 hours after which time thin layer chromatography indicates the reaction to be complete. The reaction mixture is filtered and the filtrate evaporated to dryness in vacuo at 40°. The residue is dissolved in water and stirred at room temperature for 1 hour and the water removed in vacuo to give an oily solid. This is dissolved in some 2.0 M aqueous hydrochloric acid and washed with dichloromethane and ether. Removal of the water at 40° in vacuo affords a brown solid which is purified by ion-exchance chromatography on DOWEX® 50 W x 8 (14-40 mesh) to give 3-aminopropyl[2-(S)-hydroxy-3-methyl-butyl]phosphinic acid, m.p. 187-189°, [α]20D =-14.5°.

reactant | 3-aminopropylphosphonous acid | 2.46 g | NCCCP(O)O | C3H10NO2P
reactant | epoxybutane | O1CC1CC | C4H8O
reactant | hexamethyldisilazane | 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | hydrochloric acid | 2.0 M | Cl | ClH
catalyst | zinc iodide | 0.64 g | [I-].[Zn+2].[I-]
product | 3-aminopropyl[2-(S)-hydroxy-3-methyl-butyl]phosphinic acid | NCCCP(O)(=O)C[C@H](C(C)C)O | C8H20NO3P
